US09334286B2
Preparation 150: 4-Bromo-5-(methoxymethyl)-1-methyl-1H-pyrazole
NaH (60%, 58 mg) was added to a solution of (4-bromo-1-methyl-1H-pyrazol-5-yl)methanol (Preparation 149, 97 mg, 1.03 mmol) in THF/DMF (8/4 mL). After stirring for 15 minutes, iodomethane (439 mg, 3.09 mmol) in THF (1 mL) was added. The resulting solution was stirred at room temperature for 16 hours. The reaction mixture was diluted with brine and extracted with EtOAc. The combined organic layers were washed with water, dried over sodium sulphate and concentrated in vacuo to afford the title compound (142 mg, 67%).

reactant | NaH | 58 mg | [H-].[Na+]
reactant | (4-bromo-1-methyl-1H-pyrazol-5-yl)methanol | 1.03 mmol, 97 mg | BrC=1C=NN(C1CO)C | C5H7BrN2O
reactant | iodomethane | 3.09 mmol, 439 mg | IC | CH3I
solvent | THF DMF | 4 mL | C1CCOC1.CN(C)C=O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 4-Bromo-5-(methoxymethyl)-1-methyl-1H-pyrazole | 142 mg, 67% | BrC=1C=NN(C1COC)C | C6H9BrN2O
